US05023250
A solution of 3β-benzoyloxy-14α-carbethoxymethyl-5α-cholest-8,15-diene (2.06 g, 3.58 mmole) in THF (90 mL), absolute ethanol (40 mL) and 20% ethanolic sodium ethoxide (5 mL) was heated at 75° C. for one hour. The reaction was partitioned between ethyl ether and iced dilute HCl. The organic layer was washed with water, dried and concentrated to yield the crude 14α-carbethoxymethyl-5α-cholest-8,15-dien-3β-ol. This was dissolved in ethyl acetate (150 mL) and platinum oxide (1 g) was added. The mixture was agitated under an atmosphere of hydrogen for 2 hours. The catalyst was filtered and the concentrated filtrate was flash chromatographed with 2:1 to 1:1 hexane in ethyl acetate to yield 1.59 g of 14α-carbethyoxymethyl-5α-cholest-8-en-3β-ol; mp 72°-73° C. (from CH3CN).

reactant | 3β-benzoyloxy-14α-carbethoxymethyl-5α-cholest-8,15-diene | 3.58 mmole, 2.06 g | C(C1=CC=CC=C1)(=O)O[C@@H]1C[C@@H]2CCC=3[C@@]4(C=C[C@H]([C@@H](CCCC(C)C)C)[C@]4(CCC3[C@]2(CC1)C)C)CC(=O)OCC | C38H54O4
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | sodium ethoxide | 5 mL | [O-]CC.[Na+]
product | 14α-carbethoxymethyl-5α-cholest-8,15-dien-3β-ol | C(=O)(OCC)C[C@]12C=C[C@H]([C@@H](CCCC(C)C)C)[C@]2(CCC=2[C@]3(CC[C@@H](C[C@@H]3CCC12)O)C)C | C31H50O3
